datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[O:5]1.[O:6][H:17],66.5256
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])([H:4])[H:5],26.2755
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])[H:6].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16])([H:5])[H:6],22.0497
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],91.9225
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([H:2])([H:3])[H:4].[S:1]([H:5])[C:6](=[C:7]([H:9])[H:10])[H:8],21.3384
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:11]([c:12]1[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]1[H:24])([H:18])[H:19])[H:6])[H:5],32.677
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])=[C:9]([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])([H:18])[H:19])([H:16])[H:17])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:7](=[C:8]([H:21])[H:22])[H:20])[C:9]1([C:10]([H:23])([H:24])[H:25])[C:11]([H:26])([H:27])[H:28])[H:12],82.5503
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([S:13][H:18])[H:17])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])([S:13][H:18])[H:17],103.345
[C:0]([S:1])([H:2])([H:3])[H:4].[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0]([S:1][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8])([H:2])([H:3])[H:4],-5.52288
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[S:8]([H:9])[H:10]>>[C:0](=[C:1]([C:2]([O:3][H:9])([H:7])[S:8][H:10])[H:6])([H:4])[H:5],154.055
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[H:32])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[C:27]([C:26]([H:29])([H:30])[H:31])([C:28]([H:33])([H:34])[H:35])[H:32])[H:14])([H:12])[H:13],20.2924
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28][H:29]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:27][O:28][H:29],62.395992
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[O:11][N:12]=[O:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:11][N:12]=[O:13],141.4192
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7][O:8][H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([O:2][O:3][H:12])([H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[O:7]1.[O:8][H:19],67.7808
[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3](=[O:4])[H:10])([H:5])[H:6].[H:11]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[C:3]=[O:4])([H:5])[H:6].[H:10][H:11],6.59883744
[C:0]([O:1][O:2][H:6])([H:3])([H:4])[H:5].[C:7]([O:8])([H:9])([H:10])[H:11]>>[C:0]([O:1][O:2][O:8][C:7]([H:9])([H:10])[H:11])([H:3])([H:4])[H:5].[H:6],273.758
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][C:12]([H:13])([H:14])[H:15],31.5892
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([S:6][H:17])[H:16])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[S:18]([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([S:6][H:17])([H:16])[H:19])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[S:18][H:20],38.9112
